US07919628B2
To a stirred solution of 0.30 g of 4-fluoro-1-methoxymethoxy-naphthalene in 21 ml of dry THF was added 1.8 ml of TMEDA. The mixture was cooled to −18 to −22° C. (carbon tetrachloride bath) after which was added 2.46 ml of 1.6 M n-butyl-lithium. The mixture was stirred at −20° C. for 0.5 h after which it was cooled to −75° C. To the mixture was added a solution of 0.60 ml of methyl chloroformate in 6 ml of THF. The mixture was stirred at −75 to −78° C. for 0.5 h, poured into brine, extracted twice with ether, dried (sodium sulphate), filtered and concentrated to an orange oil. The oil was dissolved in dichloromethane and purified by flash chromatography on silica gel, eluting with ethyl acetate/heptanes to provide 0.162 g of 4-fluoro-1-methoxymethoxynaphthalene-2-carboxylic acid methyl ester as an off-white solid.

reactant | 4-fluoro-1-methoxymethoxy-naphthalene | 0.30 g | FC1=CC=C(C2=CC=CC=C12)OCOC | C12H11FO2
reactant | TMEDA | 1.8 ml | CN(C)CCN(C)C | C6H16N2
reactant | n-butyl-lithium | 1.6 M, 2.46 ml | C(CCC)[Li]
reactant | methyl chloroformate | 0.60 ml | ClC(=O)OC | C2H3ClO2
solvent | THF | 21 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-fluoro-1-methoxymethoxynaphthalene-2-carboxylic acid methyl ester | 0.162 g | COC(=O)C1=C(C2=CC=CC=C2C(=C1)F)OCOC | C14H13FO4
